US06069141
423 mg (1.0 mmole) of N-({3-[3-fluoro-4-(1-oxo-1lambda4,4-thiazinan-4-yl)phenyl}-4,5-dihydro-5-isoxazolyl}methyl)acetamide is combined with 1.5 ml hydrazine hydrate and 1.5 ml dimethylsulfoxide in a 15 ml screw cap pressure tube. The reaction is heated to 130° C. for 24 hours. The mixture is cooled to room temperature, is diluted with 25 ml 50% saturated sodium chloride, and is extracted with 5×20 ml 5% methanol/chloroform. The organics are dried over potassium carbonate and are concentrated in vacuo to give 325 mg (87%) of N-({3-[3-fluoro-4-(1-oxo-1lambda4,4-thiazinan-4-yl)phenyl}-4,5-dihydro-5-isoxazolyl}methyl)amine. The crude solid, 315 mg (1.01 mmole) is dissolved in 10 ml 1:1 dichloromethane/tetrahydrofuran in an oven dried 50 ml two neck round bottom flask under nitrogen. The solution is treated with triethylamine (0.28 ml, 2.02 mmole) followed by ethyl dithioacetate (0.23 ml, 2.02 mmole) and the reaction is stirred 1 hour at room temperature. The suspension is brought to homogeneity with chloroform, is treated with 4 g silica gel (230-400 mesh), and is concentrated to dryness. The plug is chromatographed over 30 g silica gel (230-400 mesh) eluting with 2% methanol/dichloromethane for a 350 ml forerun followed by 3% methanol/dichloromethane while collecting 50 ml fractions. Fractions 2-5 are combined and concentrated to provide 277 mg (75%) of the title compouns as solid. mP=199° C.

reactant | N-({3-[3-fluoro-4-(1-oxo-1lambda4,4-thiazinan-4-yl)phenyl}-4,5-dihydro-5-isoxazolyl}methyl)acetamide | 1.0 mmole, 423 mg | FC=1C=C(C=CC1N1CCS(CC1)=O)C1=NOC(C1)CNC(C)=O | C16H20FN3O3S
reactant | hydrazine hydrate | 1.5 ml | O.NN
reactant | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
solvent | sodium chloride | 25 ml | [Cl-].[Na+]
product | N-({3-[3-fluoro-4-(1-oxo-1lambda4,4-thiazinan-4-yl)phenyl}-4,5-dihydro-5-isoxazolyl}methyl)amine | 325 mg, 87% | FC=1C=C(C=CC1N1CCS(CC1)=O)C1=NOC(C1)CN | C14H18FN3O2S
